US05075203
Under nitrogen, 44.1 g (0.172 mol) of 6-bromo-2,3-dicyanonaphthalene was added to a solution of sodium methoxide in methanol prepared by adding 1.92 g (84 mmols) of metallic sodium in 5 times to 270 ml of absolute methanol, and anhydrous ammonia gas was slowly bubbled into the resulting mixture with sufficient mixing at room temperature for about 1 hour. The mixture was refluxed for about 3 hours, while bubbling therethrough anhydrous ammonia gas. After cooling, the yellow solid precipitated was filtered and the residue was sufficiently washed with methanol and dried under reduced pressure to obtain 45 g of 6-bromo-1,3-diiminobenz[f]isoindoline as a yellow solid. IR specturm of this 6-bromo-1,3-diiminobenz[f]isoindoline is shown in in FIG. 3. The 6-bromo-1,3-diiminobenz[f]isoindoline was used in the subsequent reaction without further purification.

reactant | 6-bromo-2,3-dicyanonaphthalene | 0.172 mol, 44.1 g | BrC=1C=C2C=C(C(=CC2=CC1)C#N)C#N | C12H5BrN2
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 84 mmols, 1.92 g | [Na] | Na
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
solvent | methanol | 270 ml | CO | CH4O
product | 6-bromo-1,3-diiminobenz[f]isoindoline | 45 g | BrC1=CC=2C(=CC=3C(NC(C3C2)=N)=N)C=C1 | C12H8BrN3
